Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Penicillins / Tetracycline Analogues
 
Attending: ___.
 
Chief Complaint:
Chronic sinusitis
 
Major Surgical or Invasive Procedure:
CT GUIDED BILATERAL REVISION FUNCTIONAL ENDOSCOPIC SINUS SURGERY

 
History of Present Illness:
He is status post bilateral
endoscopic sinus surgery on ___.  He is
known to have significant to chronic ___ 
medical
management.  We elected to proceed with bilateral revision
endoscopic sinus surgery.
 
Past Medical History:
CAD  
Hypertension  
Arthritis  
Hemorrhoids  
Prostrate Cancer s/p Radical prostatectomy  
Skin Cancer on nose s/p Mohs surgery  
Tonsillectomy  
Appendectomy  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Exam:
Vitals: T98.0 PO, BP 131 / 70, HR 64, RR 18, O2 sat 95% RA 
GEN: No apparent distress
HEENT: bilateral nasal packing in place
CV: Regular rate
RESP: Unlabored breathing, without stridor or stertor, strong
voice
NEURO: Alert and oriented, communicative
 
Pertinent Results:
___ 06:26PM   WBC-8.1 RBC-3.55* HGB-10.5* HCT-33.5* MCV-94 
MCH-29.6 MCHC-31.3* RDW-18.6* RDWSD-63.0*
___ 06:26PM   PLT COUNT-295
___ 06:26PM   ___ PTT-29.7 ___
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service for revision FESS. Please see the separately 
dictated operative note for details of procedure. The patient 
was extubated and transferred to the hospital floor for further 
post-operative care. The post-operative course was uneventful 
and the patient was discharged to home. 

 

Hospital Course by Systems:

 

Neuro: Pain was well controlled, initially with IV regimen which 
was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 

Cardiovascular: Remained hemodynamically stable.  

Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.

HEENT: Merocel packing placed bilaterally, will need to be 
removed in ___

GI: Diet was advanced as tolerated. Bowel regimen was given prn.

GU: Patient was able to void independently.

Heme: Received heparin subcutaneously and pneumatic compression 
boots for DVT prophylaxis.

Endocrine: Monitored without any remarkable issues.

ID: Received perioperative antibiotics 

 

At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control.  The patient was given instructions to follow-up in 
clinic as scheduled. Pt was given detailed discharge 
instructions outlining wound care, activity, diet, follow-up and 
the appropriate medication scripts.

 
Medications on Admission:
Medications - Prescription
BUDESONIDE - budesonide 0.5 mg/2 mL suspension for nebulization.
Take one respule add to Neilmed bottle then irrigate one nostril
with half bottle on one side and repeat on the other side twice 
a
day
CELECOXIB - celecoxib 200 mg capsule. TAKE ONE CAPSULE BY MOUTH
EVERY DAY AS NEEDED
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. 2 spray nasal once a day
METOPROLOL SUCCINATE - metoprolol succinate ER 50 mg
tablet,extended release 24 hr. TAKE 1 AND ___ TABLET BY MOUTH
DAILY
NITROGLYCERIN - nitroglycerin 0.4 mg sublingual tablet. PLACE1
TABLET(S) SUBLINGUALLY (UNDER THE TONUE) FOR CHEST PAIN CALL ___
SIMVASTATIN - simvastatin 40 mg tablet. TAKE 1 TABLET BY MOUTH
DAILY
SULFAMETHOXAZOLE-TRIMETHOPRIM - sulfamethoxazole 800
mg-trimethoprim 160 mg tablet. 1 tablet(s) by mouth twice a day
 
Medications - OTC
ASPIRIN - aspirin 81 mg chewable tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H Duration: 7 Days  
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM 
5. CELECOXIB - celecoxib 200 mg capsule. (HOLD FOR 7 DAYS)
6. NITROGLYCERIN - nitroglycerin 0.4 mg sublingual tablet. 
PLACE1
TABLET(S) SUBLINGUALLY (UNDER THE TONUE) FOR CHEST PAIN CALL ___. ASPIRIN - aspirin 81 mg chewable tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider) (HOLD FOR 7 DAYS)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Otolaryngology – Head and Neck Surgery
Post-Operative Instructions 
Endoscopic Sinus Surgery

An Endoscopic Sinus Surgery is an operation to open up the 
sinuses and remove disease from them with the help of 
telescopes.

•       You may have clear packing in your nose after the 
surgery which may fall out like a clear piece of plastic in the 
next few days. In all cases, expect congested nasal breathing to 
some degree in the first few weeks. 

•       Do not blow your nose. If you sneeze, do so with your 
mouth open.

•       Expect some bloody discharge or blood-tinged secretions. 
Bright red blood is not expected, and should not be seen.

•       Do not use aspirin or any non-steroidal medicines (like 
Motrin, Advil, ibuprofen), as these may increase bleeding.

•       Pain will be assessed, and medication prescribed, before 
you leave the hospital.

•       Start your antibiotics and any nasal sprays the night of 
the surgery.

•       Start the saline irrigations the day after surgery

•       Keep your follow-up appointment.

** During your stay you had packing placed in both sides of your 
nose which will need to be removed in the ___ clinic. 

For questions or problems, please call ___ to speak 
to the clinic nurse during clinic hours.

After hours, or on weekends, dial ___ and ask the 
operator to page the Otolaryngology resident on-call.

 
Followup Instructions:
___